US07691882B2
4-(Thiophen-3-ylmethoxy)-benzaldehyde
To a tetrahydrofuran (250 mL) solution of diethylazodicarboxylate (16.1 mL, 40.9 mmol) were added 4-hydroxybenzaldehyde (5 g, 40.9 mmol), 3-thiophene methanol (3.86 mL, 40.9 mmol) and PS-triphenylphosphine (29 g, 1.41 mmol/g, 40.9 mmol). This mixture was stirred for 7 hours at room temperature. This mixture was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (3.61 g, 40%).

reactant | diethylazodicarboxylate | 40.9 mmol, 16.1 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-hydroxybenzaldehyde | 40.9 mmol, 5 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3-thiophene methanol | 40.9 mmol, 3.86 mL | S1C=C(C=C1)CO | C5H6OS
reactant | triphenylphosphine | 40.9 mmol, 29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 4-(Thiophen-3-ylmethoxy)-benzaldehyde | 3.61 g, 40% | S1C=C(C=C1)COC1=CC=C(C=O)C=C1 | C12H10O2S
